US07192968B2
(±)-trans-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[(5-ethyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclopentanediamine hydrochloride
(±)-trans-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[(4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclopentanediamine hydrochloride (500 mg) was dissolved in N,N-dimethylformamide (10 ml), and triethylamine (576 μl) and ethyl iodide (329 μl) were added to stir the mixture overnight at room temperature. The reaction mixture was concentrated under reduced pressure, and water was added to the residue to collect insoluble matter by filtration. This product was purified by column chromatography on silica gel (dichloromethane:methanol=100:3) to obtain a pale brown foamy substance. This substance was suspended in 1N hydrochloric acid (2 ml), and the suspension was concentrated under reduced pressure to obtain the title compound (180 mg) as a pale yellow foamy substance.

reactant | (±)-trans-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[(4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclopentanediamine hydrochloride | 500 mg | Cl.ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@@H](CCC1)NC(=O)C=1SC=2CNCCC2N1
reactant | triethylamine | 576 μl | C(C)N(CC)CC | C6H15N
reactant | ethyl iodide | 329 μl | C(C)I | C2H5I
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | 1N, 2 ml | Cl | ClH
product | (±)-trans-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[(5-ethyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclopentanediamine hydrochloride | 180 mg | Cl.ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@@H](CCC1)NC(=O)C=1SC=2CN(CCC2N1)CC | InChI=1S/C23H26ClN5O2S.ClH/c1-2-29-9-8-18-20(12-29)32-23(28-18)22(31)27-17-5-3-4-16(17)26-21(30)19-11-13-10-14(24)6-7-15(13)25-19;/h6-7,10-11,16-17,25H,2-5,8-9,12H2,1H3,(H,26,30)(H,27,31);1H/t16-,17-;/m1./s1
